US04302588
2.0 g of 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-benzyloxy-3,4-dihydrocarbostyril was suspended in 50 ml of methanol, and ethanol containing hydrogen chloride was added to the suspension until the suspension showed acidity to form a homogeneous solution. 0.7 g of 10% palladium carbon was added to the resulting solution, and the mixture was stirred at room temperature and at atmospheric pressure to absorb hydrogen. The reaction completed at the point when the absorption of hydrogen ceased. The catalyst was removed by filtration, and the methanol evaporated. To the residue was added a small amount of ethanol to crystallized followed by recrystallization from ethanol to obtain 1.5 g of 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-hydroxy-3,4-dihydrocarbostyril hydrochloride as colorless powdery crystals having a melting point of 171°-173° C.

reactant | 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-benzyloxy-3,4-dihydrocarbostyril | 2.0 g | COC=1C=C(CCNCC(COC2=C3CCC(NC3=C(C=C2)OCC2=CC=CC=C2)=O)O)C=CC1OC | C29H34N2O6
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 0.7 g | [C].[Pd]
product | 5-[3-(3,4-dimethoxyphenethylamino)-2-hydroxypropoxy]-8-hydroxy-3,4-dihydrocarbostyril hydrochloride | 1.5 g | Cl.COC=1C=C(CCNCC(COC2=C3CCC(NC3=C(C=C2)O)=O)O)C=CC1OC | InChI=1S/C22H28N2O6.ClH/c1-28-19-6-3-14(11-20(19)29-2)9-10-23-12-15(25)13-30-18-7-5-17(26)22-16(18)4-8-21(27)24-22;/h3,5-7,11,15,23,25-26H,4,8-10,12-13H2,1-2H3,(H,24,27);1H
